### PR TITLE
Add more data structure lemmas.

### PR DESCRIPTION
**Pull request by emina**
This PR adds more useful data structure lemmas.

@cdisselkoen I think the following will be useful in discharging some of the `Map` proofs from #291:

* `List.filterMap_sortedBy`
* `List.mapM'_some_eq_filterMap`
* `List.mem_of_sortedBy_unique`

### CODE REVIEW

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 1]
```diff
@@ -770,31 +797,135 @@ theorem mapM_head_tail {α β γ} {f : α → Except β γ} {x : α} {xs : List
...
+/-! ### Forall₂ -/
+
+theorem forall₂_implies_all_left {α β} {R : α → β → Prop} {xs : List α} {ys : List β} :
+  List.Forall₂ R xs ys →
+  ∀ x, x ∈ xs → ∃ y, y ∈ ys ∧ R x y
+:= by
+  intro h
+  induction h
+  case nil =>
+    simp only [not_mem_nil, false_and, exists_false, imp_self, implies_true]
```
[the remark this answers is not in the document]
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/List.lean:809]: I'm reading the guidance as "can" :). I prefer to use the same rule everywhere (`simp only`) because it's easier to remember and more consistent.

File: cedar-lean/Cedar/Thm/Data/Map.lean [hunk 2]
```diff
@@ -27,11 +27,27 @@ This file proves useful properties of canonical list-based maps defined in
...
+  simp only [List.canonicalize_sortedBy]
+
+theorem sorted_implies_wf {α β} [LT α] [DecidableLT α] [StrictLT α] {m : Map α β} :
+  m.toList.SortedBy Prod.fst → m.WellFormed
+:= by
+  intro h
+  rw [toList, kvs] at *
+  replace h := List.sortedBy_implies_canonicalize_eq h
+  rw [WellFormed, toList, kvs, make, h]
+
```
[the remark this answers is not in the document]
Comment (emina) [reply cedar-lean/Cedar/Thm/Data/Map.lean:50]: Yes, will do in the next revision.

**Comment by emina** [comment]
Ugh, the DCO check failed again when accepting the suggested commit :-\.  Will set it to pass manually.

**Review by cdisselkoen — APPROVED** [review]

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 3]
```diff
@@ -770,31 +797,135 @@ theorem mapM_head_tail {α β γ} {f : α → Except β γ} {x : α} {xs : List
...
+    cases h₃ : mapM' f xtl <;>
+    simp only [h₃, Except.bind_err, Except.bind_ok] at h₁
+    rename_i ytl
+    simp only [Except.ok.injEq] at h₁
+    subst h₁
+    exact List.Forall₂.cons h₂ (ih h₃)
+
+theorem mapM'_ok_implies_all_ok {α β γ} {f : α → Except γ β} {xs : List α} {ys : List β} :
+  List.mapM' f xs = .ok ys →
+  ∀ x, x ∈ xs → ∃ y, y ∈ ys ∧ f x = .ok y
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/List.lean:870]: Same suggestion from `forall₂_implies_all_*` above. (Assuming the syntax is ok -- I haven't compiled locally.)
```suggestion
  ∀ x ∈ xs, ∃ y ∈ ys, f x = .ok y
```

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 4]
```diff
@@ -770,31 +797,135 @@ theorem mapM_head_tail {α β γ} {f : α → Except β γ} {x : α} {xs : List
...
+:= by
+  intro h
+  exact forall₂_implies_all_left (mapM'_ok_implies_forall₂ h)
+
+theorem mapM'_ok_implies_all_from_ok {α β γ} {f : α → Except γ β} {xs : List α} {ys : List β} :
+  List.mapM' f xs = .ok ys →
+  ∀ y, y ∈ ys → ∃ x, x ∈ xs ∧ f x = .ok y
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/List.lean:877]:
```suggestion
  ∀ y ∈ ys, ∃ x ∈ xs, f x = .ok y
```

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 5]
```diff
@@ -770,31 +797,135 @@ theorem mapM_head_tail {α β γ} {f : α → Except β γ} {x : α} {xs : List
...
   case cons xhd xtl ih =>
-    intro x h₂
+    simp only [mapM'_cons, pure, Option.bind_eq_bind, Option.bind_eq_some, Option.some.injEq] at h₁
+    replace ⟨yhd, h₁, ytl, h₂, h₃⟩ := h₁
+    subst h₃
+    exact List.Forall₂.cons h₁ (ih h₂)
+
+theorem mapM'_some_implies_all_some {α β} {f : α → Option β} {xs : List α} {ys : List β} :
+  List.mapM' f xs = .some ys →
+  ∀ x, x ∈ xs → ∃ y, y ∈ ys ∧ f x = .some y
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/List.lean:900]:
```suggestion
  ∀ x ∈ xs, ∃ y ∈ ys, f x = .some y
```

File: cedar-lean/Cedar/Thm/Data/List.lean [hunk 6]
```diff
@@ -770,31 +797,135 @@ theorem mapM_head_tail {α β γ} {f : α → Except β γ} {x : α} {xs : List
...
+:= by
+  intro h
+  exact forall₂_implies_all_left (mapM'_some_implies_forall₂ h)
+
+theorem mapM'_some_implies_all_from_some {α β} {f : α → Option β} {xs : List α} {ys : List β} :
+  List.mapM' f xs = .some ys →
+  ∀ y, y ∈ ys → ∃ x, x ∈ xs ∧ f x = .some y
```
Comment (khieta) [inline cedar-lean/Cedar/Thm/Data/List.lean:907]:
```suggestion
  ∀ y ∈ ys, ∃ x ∈ xs, f x = .some y
```

**Review by khieta — APPROVED** [review]
Lgtm. I left some minor suggestions since I saw that you had made similar changes elsewhere.

**Review by cdisselkoen — APPROVED** [review]
